US09211340B2
3.20 g (7.9 mmol) of N—(N-(6-(benzyloxy)hexyl)carbamimidoyl)-4-methylbenzenesulfonamide were dissolved under nitrogen in MeOH. A few mg of 10% Palladium over activated charcoal were added. 1 mL of acetic acid was added. 3 vacuo hydrogen flush were done before stirring vigorously the reaction under a H2 atmosphere. The reaction was vigorously stirred at room temperature for 3 hours and checked by TLC. No conversion was found and 2 mL of acetic acid were added. After 1 hour, the TLC showed no conversion and more 10% Palladium over activated charcoal were added. After 3 days, the TLC showed a complete conversion and the solution was filtered over celite and the solvent evaporated to afford 2.480 g of N—(N-(6-hydroxyhexyl)carbamimidoyl)-4-methylbenzenesulfonamide as slightly yellow oil was obtained (yield=100%).

reactant | N—(N-(6-(benzyloxy)hexyl)carbamimidoyl)-4-methylbenzenesulfonamide | 7.9 mmol, 3.20 g | C(C1=CC=CC=C1)OCCCCCCNC(=N)NS(=O)(=O)C1=CC=C(C=C1)C | C21H29N3O3S
reactant | charcoal | C | CH4
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | N—(N-(6-hydroxyhexyl)carbamimidoyl)-4-methylbenzenesulfonamide | 2.480 g, yield=100% | OCCCCCCNC(=N)NS(=O)(=O)C1=CC=C(C=C1)C | C14H23N3O3S
